US06528525B1
(e) Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-phenoxypropionate
In a similar manner to that described in Reference example 3(f), a reaction was carried out using ethyl 2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate (4.53 g), which is the product of Reference example 4(d), and p-toluenesulfonic acid monohydrate (2.70 g) and the reaction mixture was treated to afford the desired compound (3.28 g) as a syrup.

reactant | ethyl 2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 4.53 g | O(C1=CC=CC=C1)C(C(=O)OCC)CC1=CC=C(C=C1)OCCOC1OCCCC1 | C24H30O6
reactant | p-toluenesulfonic acid monohydrate | 2.70 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 3-[4-(2-hydroxyethoxy)phenyl]-2-phenoxypropionate | 3.28 g | OCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C19H22O5
